US07855294B2
1 mL of 1 M tetrabutylammonium fluoride-tetrahydrofuran solution was added to the compound obtained in the above 1, and stirred at 50° C. for 4 hours. Then, the reaction liquid was cooled to room temperature. Water was added to the reaction liquid, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated saline water, and dried with anhydrous sodium sulfate. The solvent was evaporated off under reduced pressure, and the residue was separated and purified through basic silica gel column chromatography (hexane/ethyl acetate=9/1 to 4/1) to obtain 19 mg of a racemate of the entitled compounds. The racemate was optically resolved in an optically-active column (Daicel's CHRALPAC AD column, 2 cm×25 cm; 0.1% diethylamine, hexane/isopropyl alcohol=9/1; flow rate, 20 mL/min). From the former fraction (retention time; 8.1 min), 6.4 mg of (7S,9R)-7-(spiro[8-aza-bicyclo[3.2.1]octa-3,1′(3′H)-isobenzofuran]-8-ylmethyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-ol was obtained; and from the latter fraction (retention time; 9.8 min), 6.4 mg of the (7R,9S) form was obtained, both as a white powder.

reactant | tetrabutylammonium fluoride tetrahydrofuran | 1 M, 1 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.O1CCCC1
reactant | Water | O | H2O
reactant | diethylamine | C(C)NCC | C4H11N
solvent | hexane isopropyl alcohol | CCCCCC.C(C)(C)O
product | 6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-ol | N1=C2C(=CC=C1)CCCCC2O | C10H13NO
